US06521650B1
Compound 3 in Scheme 1 {2-[(2-Cyano-ethylcarbamoyl)-methyl]-4-methyl-pentyl}-carbamic acid tert-butyl ester
A solution of compound 2 (8.0 g, 0.03 mol) (prepared in the usual manner from (BOC)2 and pregabalin) was taken up in 250 mL dry THF and cooled in an ice water bath. Triethyl amine (4.62 mL, 0.033 mol) was added followed by the addition of isobutyle chloroformate (4 mL, 0.031 mol). The reaction was stirred at 0° C. for about 15 minutes during which time a precipitate formed. In a separate flask was placed 3-aminoproprionitrile fumarate (3.95 g, 0.03 mol) in 35 mL of 1 M NaOH and 300 mL of THF. This mixture was cooled to 0° C. and treated with the mixed anhydride formed above in four portions. Before each portion was added, 35 mL of 1 M NaOH was added to the mixture. The reaction was stirred for 24 hours and was then concentrated to remove THF. The resulting aqueous was extracted with three times ethyl acetate. The combined organic extracts were washed with brine, dried over magnesium sulfate. The solvents were removed under reduced pressure to give 6.6 g green oil. MS(APCI) m/z 312 (M+1).

reactant | pregabalin | CC(C)C[C@@H](CC(=O)O)CN | C8H17NO2
reactant | Triethyl amine | 0.033 mol, 4.62 mL | C(C)N(CC)CC | C6H15N
reactant | chloroformate | 0.031 mol, 4 mL | ClC(=O)[O-]
reactant | 3-aminoproprionitrile fumarate | 0.03 mol, 3.95 g | C(\C=C\C(=O)O)(=O)O.NCCC#N
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | NaOH | 1 M, 35 mL | [OH-].[Na+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | NaOH | 1 M, 35 mL | [OH-].[Na+]
product | {2-[(2-Cyano-ethylcarbamoyl)-methyl]-4-methyl-pentyl}-carbamic acid tert-butyl ester | 6.6 g | C(C)(C)(C)OC(NCC(CC(C)C)CC(NCCC#N)=O)=O | C16H29N3O3
